US03987160
Concentrated sulphuric acid (7.5 ml.) was added dropwise, under anhydrous conditions, to an ice-cooled, stirred suspension of 5-amino-1-benzyl-4-carbamoyl-1,2,3-triazole (10.85 g.; prepared as described by J. R. E. Hoover and A. R. Day, J.Amer.Chem.Soc., 1956, 78, 5832) in isovaleryl chloride (50 ml.), and the mixture was then stirred at room temperature overnight. The resulting solution was poured into ice-water, and the precipitated solid filtered off, stirred well with water, again filtered off, and dried, to give 1-benzyl-5-isovaleramido-4-isovalerylcarbamoyl-1,2,3-triazole (16.4 g.), m.p. 125°-128° C. An aliquot was recrystallised from di-isopropyl ether to give pure 1benzyl-5-isovaleramido-4-isovalerylcarbamoyl-1,2,3-triazole, m.p. 130°-131° C.

reactant | sulphuric acid | 7.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | 5-amino-1-benzyl-4-carbamoyl-1,2,3-triazole | NC1=C(N=NN1CC1=CC=CC=C1)C(N)=O | C10H11N5O
reactant | isovaleryl chloride | 50 ml | C(CC(C)C)(=O)Cl | C5H9ClO
product | 1-benzyl-5-isovaleramido-4-isovalerylcarbamoyl-1,2,3-triazole | 16.4 g | C(C1=CC=CC=C1)N1N=NC(=C1NC(CC(C)C)=O)C(NC(CC(C)C)=O)=O | C20H27N5O3
